US06498172B1
3-(3-{[(Pyridine-3-sulfonyl)-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step B was prepared from 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 9.05 (d, 1H), 8.80 (m, 2H), 8.60 (d, 1H), 8.06 (m, 1H), 7.91 (m, 1H), 7.44 (m, 4H), 7.21 (d, 2H), 7.15 (m, 1H), 7.06 (d, 1H), 6.92 (d, 1H), 6.87 (s, 1H), 4.41 (s, 2H), 4.38 (s, 2H), 3.65 (s, 3H), 2.82 (t, 2H), 2.51 (t, 2H); MS 502 (M+1).

reactant | 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=CC1)=O | C23H24N2O2
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(Pyridine-3-sulfonyl)-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1C=NC=CC1)S(=O)(=O)C=1C=NC=CC1)=O | C28H27N3O4S
